US08217028B2
DABCO (45 mg) was added to a solution of 3-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoic acid (E22) (71 mg) in DMF (2 mL) and dimethyl carbonate (2 mL). The reaction mixture was stirred at 94° C. for 3 days. Then the reaction was quenched with water, and extracted with EtOAc for 3 times. The combined organic solution was washed with brine, and dried over anhydrous sodium sulfate. The dried solution was concentrated to afford the crude product as a brown solid. This solid was dissolved in THF (3 mL) and water (3 mL). Sodium hydroxide (40 mg) was then added to the mixture. The reaction mixture was stirred at 90° C. for 1 hour. Then 0.5 M HCl was added until pH was about 6. The solvent was concentrated, and the residue was dissolved in water. The precipitated solid was purified by Mass Directed Auto Prep to afford 3-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1-methyl-1H-indol-3-yl]propanoic acid (E23) (27 mg) as a white solid. δH (DMSO-d6, 400 MHz): 1.38 (6H, d), 2.60 (2H, t), 3.03 (2H, t), 3.63 (3H, s), 5.45 (1H, m), 6.96 (1H, dd), 7.22 (1H, s), 7.42 (1H, dd), 8.57 (1H, d), 8.94 (1H, d), 12.11 (1H, br s). δF (DMSO-d6, 376 MHz): −120.4. MS (ES): C22H20ClFN4O4 requires 458; found 459.1 (M+H+).

reactant | DABCO | 45 mg | C1CN2CCN1CC2 | C6H12N2
reactant | 3-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1H-indol-3-yl]propanoic acid | 71 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C=1C=CC(=C2C(=CNC12)CCC(=O)O)F | C21H18ClFN4O4
reactant | Sodium hydroxide | 40 mg | [OH-].[Na+]
reactant | HCl | 0.5 M | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dimethyl carbonate | 2 mL | C(OC)(OC)=O | C3H6O3
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 3-[7-(5-{5-chloro-6-[(1-methylethyl)oxy]-3-pyridinyl}-1,2,4-oxadiazol-3-yl)-4-fluoro-1-methyl-1H-indol-3-yl]propanoic acid | 27 mg | ClC=1C=C(C=NC1OC(C)C)C1=NC(=NO1)C=1C=CC(=C2C(=CN(C12)C)CCC(=O)O)F | C22H20ClFN4O4
